US06034239
(S)-N-[2-(5-bromo-6-hydroxyindan-1-yl)ethyl]propionamide
A solution of (S)-N-[2-(5-bromo-6-methoxyindan-1-yl)ethyl]propionamide (56.7 g, 174 mmol.) in dichloromethane (400 mL) was cooled to -30° C. To the solution was added dropwise slowly boron tribromide (95.8 g, 382 mmol.). The reaction mixture was stirred for 30 minutes while keeping at temperatures ranging from -20 to -15° C. The reaction mixture was poured into ice-water, which was stirred for further 10 minutes at room temperature. The organic matter was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel column chromatography (ethyl acetate) to afford the title compound (yield 51.12 g, 94%).

reactant | (S)-N-[2-(5-bromo-6-methoxyindan-1-yl)ethyl]propionamide | 174 mmol, 56.7 g | BrC=1C=C2CC[C@H](C2=CC1OC)CCNC(CC)=O | C15H20BrNO2
reactant | boron tribromide | 382 mmol, 95.8 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (S)-N-[2-(5-bromo-6-hydroxyindan-1-yl)ethyl]propionamide | yield 51.12 g, 94% | BrC=1C=C2CC[C@H](C2=CC1O)CCNC(CC)=O | C14H18BrNO2
